US08183239B2
N-(1-{4-[3-(3,5-Dimethyl-isoxazol-4-yl)-ureido]-2-fluoro-phenyl}-piperidin-4-yl)-2-ethyl-N-phenyl-butyramide
N-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-2-ethyl-N-phenyl-butyramide. To a mixture of 2-ethyl-N-phenyl-N-piperidin-4-yl-butyramide (10 mmol) and K2CO3 (40 mmol) in DMF (30 mL) was added 1,2-difluoro-4-nitro-benzene (1.6 g, 10 mmol). The reaction mixture was stirred at 50° C. for 3 h, then was diluted with H2O (500 mL). The solution was decanted, leaving a semi-solid, which was collected and re-dissolved into 1:1 EtOH/EtOAc (100 mL). The mixture was treated with SnCl2.2H2O (10 g) and was heated at 100° C. for 16 h. The mixture was cooled to rt, diluted with ice water (100 mL), basified to pH=9 with NaHCO3, and extracted with EtOAc (3×200 mL). The organic layers were combined, dried (Na2SO4), and concentrated to give the crude title compound.

reactant | N-[1-(4-amino-2-fluoro-phenyl)-piperidin-4-yl]-2-ethyl-N-phenyl-butyramide | NC1=CC(=C(C=C1)N1CCC(CC1)N(C(C(CC)CC)=O)C1=CC=CC=C1)F | C23H30FN3O
reactant | 2-ethyl-N-phenyl-N-piperidin-4-yl-butyramide | 10 mmol | C(C)C(C(=O)N(C1CCNCC1)C1=CC=CC=C1)CC | C17H26N2O
reactant | K2CO3 | 40 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-difluoro-4-nitro-benzene | 10 mmol, 1.6 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | H2O | 500 mL | O | H2O
product | N-(1-{4-[3-(3,5-Dimethyl-isoxazol-4-yl)-ureido]-2-fluoro-phenyl}-piperidin-4-yl)-2-ethyl-N-phenyl-butyramide | CC1=NOC(=C1NC(NC1=CC(=C(C=C1)N1CCC(CC1)N(C(C(CC)CC)=O)C1=CC=CC=C1)F)=O)C | C29H36FN5O3
